US07709471B2
3-[(3,5-dimethoxyphenyl)methylamino]-N-methyl-propanamide
N-methylacrylamide (ABCR; 500 mg, 5.87 mmol) and 3,5-dimethoxybenzylamine (Aldrich; 0.98 mL, 6.46 mmol) were dissolved in ethanol (4 mL) and heated in a microwave at 140° C. for 45 minutes. The mixture was poured onto a 20 g SCX-2 column, washed with methanol and eluted with 3.5N NH3 in methanol. The product fractions were evaporated to the title compound as a yellow oil (1.3 g, 88%).

reactant | N-methylacrylamide | 5.87 mmol, 500 mg | CNC(C=C)=O | C4H7NO
reactant | 3,5-dimethoxybenzylamine | 6.46 mmol, 0.98 mL | COC=1C=C(CN)C=C(C1)OC | C9H13NO2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-[(3,5-dimethoxyphenyl)methylamino]-N-methyl-propanamide | COC=1C=C(C=C(C1)OC)CNCCC(=O)NC | C13H20N2O3
